US08193228B2
Pd(dppf)Cl2 (2.92 g, 4 mol) was added to a degassed, ambient temperature solution of 4′-bromo-2,2,2-trifluoroacetophenone (20 g, 0.08 mol), bis(pinacolato)diboron (21 g, 0.08 mol) and potassium acetate (19.6 g, 0.2 mol) in N,N-dimethylformamide (360 mL). After heating at 90° C. for 24 hours, the reaction mixture was cooled and concentrated in vacuo, the residue was dissolved in methylene chloride (600 mL), filtered and concentrated in vacuo. Chromatography over silica eluting with petroleum ether/ethyl acetate (20:1) afforded 2,2,2-trifluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone.

reactant | 4′-bromo-2,2,2-trifluoroacetophenone | 0.08 mol, 20 g | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | bis(pinacolato)diboron | 0.08 mol, 21 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.2 mol, 19.6 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 360 mL | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | 4 mol, 2.92 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2,2-trifluoro-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethanone | FC(C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C14H16BF3O3
